US09303035B2
Step 6: 4-Bromo-N-((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl)butanamide
4-Bromobutyryl chloride (29.4 mg, 0.158 mmol) was added to a solution of 8-(aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione (61 mg, 0.132 mmol) and triethylamine (0.022 mL, 0.158 mmol) in DCM (4 mL). The mixture was stirred at room temperature for 3.5 hours, then diluted with DCM (30 ml) and washed with saturated NaHCO3(aq) (30 ml). The organic phase was passed through a hydrophobic frit and evaporated under vacuum to afford the title compound as a crude material which was used directly

reactant | 4-Bromobutyryl chloride | 0.158 mmol, 29.4 mg | BrCCCC(=O)Cl | C4H6BrClO
reactant | 8-(aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | 0.132 mmol, 61 mg | NCC1CN2C(C(O1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O | C20H20ClN5O4S
reactant | triethylamine | 0.158 mmol, 0.022 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl)butanamide | BrCCCC(=O)NCC1CN2C(C(O1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O | C24H25BrClN5O5S
